US04013663
89.2 g of 5-benzyloxy-2-formyl-1,2,3,4-tetrahydro-6-methoxy-isoquinoline are dissolved in 450 ml of glacial acetic acid and hydrogenated at room temperature and normal pressure in the presence of 4.5 g of 5 percent palladium black. After conclusion of hydrogen absorption, the reaction mixture is separated from the catalyst by filtration and evaporated to dryness under reduced pressure. Recrystallization of the residue from ethanol gives 57.2 g of 2-formyl-1,2,3,4-tetrahydro-5-hydroxy-6-methoxy-isoquinoline. m.p. = 172.5° - 173.5° C.

reactant | 5-benzyloxy-2-formyl-1,2,3,4-tetrahydro-6-methoxy-isoquinoline | 89.2 g | C(C1=CC=CC=C1)OC1=C2CCN(CC2=CC=C1OC)C=O | C18H19NO3
solvent | acetic acid | 450 ml | C(C)(=O)O | C2H4O2
catalyst | palladium black | 4.5 g | [Pd] | Pd
product | 2-formyl-1,2,3,4-tetrahydro-5-hydroxy-6-methoxy-isoquinoline | 57.2 g | C(=O)N1CC2=CC=C(C(=C2CC1)O)OC | C11H13NO3
